US04895847
To a solution containing 1.77 g of 1-amino-2,3-dihydro-4,6-dimethyl-7-hydroxy-1H-indene and 2 ml of trethylamine in 100 ml of chloroform was added dropwise 2.23 g of octyl chloride at room temperature. Then the reaction mixture was stirred at the same temperature for 4 hours. The reaction mixture was washed with a diluted hydrochloric acid, water, an aqueous solution saturated with sodium bicarbonate, water and an aqueous solution saturated with sodium chloride in this order, then dried with anhydrous sodium sulfate. The solvent was removed by evaporation and the residue thus obtained was dissolved in ethanol, tna an ethanol saturated with hydrogen chloride gas was added thereto form a hydrochlodide. Recrysttallized form acetonitrile to obtain 0.49 g of 2,3-dihydro-1-octylamino-4,6-dimethyl-7-hydroxy-1H-indene hydrochloride. Colorless needle-like crystals. Melting point: 120°-121° C.

reactant | 1-amino-2,3-dihydro-4,6-dimethyl-7-hydroxy-1H-indene | 1.77 g | NC1CCC2=C(C=C(C(=C12)O)C)C | C11H15NO
reactant | octyl chloride | 2.23 g | C(CCCCCCC)Cl | C8H17Cl
reactant | hydrogen chloride | Cl | ClH
reactant | acetonitrile | C(C)#N | C2H3N
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | C(C)O | C2H6O
product | 2,3-dihydro-1-octylamino-4,6-dimethyl-7-hydroxy-1H-indene hydrochloride | 0.49 g | Cl.C(CCCCCCC)NC1CCC2=C(C=C(C(=C12)O)C)C | InChI=1S/C19H31NO.ClH/c1-4-5-6-7-8-9-12-20-17-11-10-16-14(2)13-15(3)19(21)18(16)17;/h13,17,20-21H,4-12H2,1-3H3;1H
